US07994171B2
1-(pyridazin-4-yl)cyclopropanamine HCl salt.
To a mixture of tert-butyl 1-(pyridazin-4-yl)cyclopropylcarbamate (0.100 g, 0.425 mmol, 1.0 eq) in a solution of 4.0 M HCl in 1,4-dioxane (4.0 ml) was stirred at r.t. for 5 hr. The reaction mixture was concentrated under vacuum and dried HCl salt was taken to next step.

reactant | tert-butyl 1-(pyridazin-4-yl)cyclopropylcarbamate | 0.425 mmol, 0.100 g, 1.0 eq | N1=NC=C(C=C1)C1(CC1)NC(OC(C)(C)C)=O | C12H17N3O2
reactant | HCl | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 4.0 ml | O1CCOCC1 | C4H8O2
product | 1-(pyridazin-4-yl)cyclopropanamine HCl salt | Cl.N1=NC=C(C=C1)C1(CC1)N | InChI=1S/C7H9N3.ClH/c8-7(2-3-7)6-1-4-9-10-5-6;/h1,4-5H,2-3,8H2;1H
